US08304539B2
Synthesis of 4-(azetidine-1-carbonyl)phenylboronic acid
A solution of 4-boronobenzoic acid (527.4 mg, 3.18 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (1.61 g, 4.23 mmol) and N,N-diisopropylethylamine (1.665 mL, 9.53 mmol) in CH3CN (40 mL) was stirred at room temperature for 30 min. Azetidine (0.321 mL, 4.76 mmol) was added. After stirring for 3 days, the mixture was concentrated and purified by reverse phase HPLC (Sunfire S10 30×250 mm column, 10-40% solvent B gradient) to give the expected product as white solid (361 mg, 55% yield). 1H NMR (500 MHz, methanol-d4) δ ppm 7.68 (2H, d, J=7.70 Hz), 7.60 (2H, d, J=7.97 Hz), 4.37 (2H, t, J=7.56 Hz), 4.19 (2H, t, J=7.84 Hz), 2.36 (2H, quin); MS (ES+) m/z: 206 (M+H); LC retention time: 2.01 min (analytical HPLC Method A).

reactant | 4-boronobenzoic acid | 3.18 mmol, 527.4 mg | B(O)(O)C1=CC=C(C(=O)O)C=C1 | C7H7BO4
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 4.23 mmol, 1.61 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 9.53 mmol, 1.665 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Azetidine | 4.76 mmol, 0.321 mL | N1CCC1 | C3H7N
solvent | CH3CN | 40 mL | CC#N | C2H3N
product | 4-(azetidine-1-carbonyl)phenylboronic acid | 361 mg, 55% yield | N1(CCC1)C(=O)C1=CC=C(C=C1)B(O)O | C10H12BNO3
